US05576343
5.07 g of potassium hydroxide was added to 30 ml of diethylene glycol, and the mixture was stirred at room temperature during which 5.5 g of 80% hydrazine dihydrate.2H2O and 5.0 g of 5-bromo-2-(4-methoxybenzoyl)benzofuran were further added. The thus prepared mixture was refluxed under heating. After cooling, the resulting reaction solution was adjusted to pH 4-5, extracted with benzene, and then dried. After distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using a n-hexane/isopropanol mixture as an elution solvent, thereby obtaining 3.95 g of 5-bromo-2-(4-methoxybenzyl)benzofuran as a brown oily material.

reactant | potassium hydroxide | 5.07 g | [OH-].[K+]
reactant | hydrazine dihydrate | 5.5 g | O.O.NN
reactant | 5-bromo-2-(4-methoxybenzoyl)benzofuran | 5.0 g | BrC=1C=CC2=C(C=C(O2)C(C2=CC=C(C=C2)OC)=O)C1 | C16H11BrO3
solvent | diethylene glycol | 30 ml | C(COCCO)O | C4H10O3
product | 5-bromo-2-(4-methoxybenzyl)benzofuran | 3.95 g | BrC=1C=CC2=C(C=C(O2)CC2=CC=C(C=C2)OC)C1 | C16H13BrO2
